US04182881
A. N-[Dichlorophosphinyl]-2-naphthamide
A mixture of 40 g (0.23 mole) of 2-naphthalene carboxamide, 48.7 g (0.23 mole) of phosphorus pentachloride and 400 ml of AR carbon tetrachloride was heated at 70° for 30 min. at which time the HCl evolution had ceased. It was cooled to 30° and 11.1 g (0.23 mole) of 97% formic acid added dropwise. Continued to stir for 30 min., then filtered, washed with AR carbon tetrachloride and air-dried to give 43 g, m.p. 110°-111°.

reactant | 2-naphthalene carboxamide | 0.23 mole, 40 g | C1=C(C=CC2=CC=CC=C12)C(=O)N | C11H9NO
reactant | phosphorus pentachloride | 0.23 mole, 48.7 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | HCl | Cl | ClH
reactant | formic acid | 0.23 mole, 11.1 g | C(=O)O | CH2O2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-[Dichlorophosphinyl]-2-naphthamide | ClP(=O)(NC(=O)C1=CC2=CC=CC=C2C=C1)Cl | C11H8Cl2NO2P
